US04410536
9-Propyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 40, from 13.8 g of 5-hydrazino-3-phenylbenzothiophene hydrochloride and 7.5 g of 1-propyl-4-piperidone by boiling the starting materials in 120 ml of isopropanol containing hydrogen chloride for 4 hours. Melting point: 187°-188° C.

reactant | 5-hydrazino-3-phenylbenzothiophene hydrochloride | 13.8 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C2=CC=CC=C2)C1
reactant | 1-propyl-4-piperidone | 7.5 g | C(CC)N1CCC(CC1)=O | C8H15NO
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 9-Propyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CC)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C4=CC=CC=C4)CC1 | C22H22N2S
